US08377970B2
N-{4-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}-2-(pyridin-2-yl)acetamide hydrochloride
Following the general procedure-1, N-{4-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}-2-(pyridin-2-yl)acetamide (107 mg) was prepared from 2-pyridylacetic acid (124 mg, 0.71 mmol) and intermediate 31 (120 mg, 0.45 mmol) as a pale yellow solid and dissolved in THF. Saturated HCl in diethyl ether was added to this solution at 0° C. and stirred for 15 min Solid that separated out was filtered and dried to give the title compound (90 mg) as a pale yellow solid. M.P. 210-215° C. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 10.80 (s, 1H), 8.79 (d, J 4.8, 1H), 8.31 (t, J 7.2, 1H), 7.86 (d, J 7.4, 1H), 7.84-7.79 (m, 4H), 7.59 (d, J 8.8, 2H), 6.60 (s, 1H), 4.20 (s, 2H), 1.85-1.75 (m, 1H), 0.99-0.90 (m, 2H), 0.82-0.75 (m, 2H). MS (m/z): 420.89 [M−H]−.

reactant | N-{4-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}-2-(pyridin-2-yl)acetamide | 107 mg | C1(CC1)C1=CC(=NN1C1=CC=C(C=C1)NC(CC1=NC=CC=C1)=O)C(F)(F)F | C20H17F3N4O
reactant | 2-pyridylacetic acid | 0.71 mmol, 124 mg | N1=C(C=CC=C1)CC(=O)O | C7H7NO2
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-{4-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}-2-(pyridin-2-yl)acetamide hydrochloride | 90 mg | Cl.C1(CC1)C1=CC(=NN1C1=CC=C(C=C1)NC(CC1=NC=CC=C1)=O)C(F)(F)F | InChI=1S/C20H17F3N4O.ClH/c21-20(22,23)18-12-17(13-4-5-13)27(26-18)16-8-6-14(7-9-16)25-19(28)11-15-3-1-2-10-24-15;/h1-3,6-10,12-13H,4-5,11H2,(H,25,28);1H
